US05612340
24.61 g (177.62 mmol) of 2-chloro-4-cyano-pyridine are placed in 1.25 liters of diethyl ether under nitrogen, and 120 ml (22% in tetrahydrofuran, 353 mmol) of methylmagnesium chloride are added. The red suspension is stirred for 40 h at RT, poured onto 1.25 liters of ice/water and 250 ml of 6N hydrochloric acid and stirred for 14 h at RT. Extraction with diethyl ether and methylene chloride, drying with MgSO4 and concentration give 4-acetyl-2-chloro-pyridine; Rf =0.5 (methylene chloride:methanol=9:1).

reactant | 2-chloro-4-cyano-pyridine | 177.62 mmol, 24.61 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | methylmagnesium chloride | 353 mmol, 120 ml | C[Mg]Cl
reactant | hydrochloric acid | 6N, 250 ml | Cl | ClH
reactant | diethyl ether | 1.25 liters | C(C)OCC | C4H10O
product | 4-acetyl-2-chloro-pyridine | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
